US08114865B2
Step 3. 2-amino-5-benzenesulfonyl-benzamide [(VI), R1=R2=R3=H, R=phenyl]
5-Benzenesulfonyl-2-nitro-benzamide (3.13 g, 10.23 mmol) was suspended in absolute ethanol (200 mL), treated with 10% Pd/C (1.5 g) and then with ammonium formate (9.7 g, 153 mmol). The mixture was stirred at reflux. After a couple of hours the reaction was complete. After cooling to room temperature the reaction was filtered over celite and the panel was washed with EtOH. Evaporation of the filtrate left the crude product that was taken up with a small amount of methanol and added dropwise to 400 mL of iced water kept under stirring. The solid thus formed was filtered and washed with water affording 1.87 g of title compound (66% yield).

reactant | 5-Benzenesulfonyl-2-nitro-benzamide | 10.23 mmol, 3.13 g | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC(=C(C(=O)N)C1)[N+](=O)[O-] | C13H10N2O5S
reactant | ammonium formate | 153 mmol, 9.7 g | C(=O)[O-].[NH4+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | water | 1.87 g | O | H2O
catalyst | Pd/C | 1.5 g | [Pd] | Pd
product | 2-amino-5-benzenesulfonyl-benzamide | 66% yield | NC1=C(C(=O)N)C=C(C=C1)S(=O)(=O)C1=CC=CC=C1 | C13H12N2O3S
